US09403768B2
(S)-2-[(S)-2-(tert-Butoxycarbonyl-methyl-amino)-propionylamino]-3-methyl-butyric acid benzyl ester (7 g, 18 mmol) and 1 M aqueous lithium hydroxide (40 mL, 40 mmol) was added to THF/MeOH/H2O (3:1:1; 200 mL) to give a yellow solution. The reaction mixture was stirred at rt overnight and then concentrated in vacuo. The residue was dissolved in water and then acidified to pH 2 using first 6 M and then 1 M aqueous HCl. The mixture was extracted with EtOAc. The organic layer was dried over Na2SO4 and concentrated in vacuo to give crude (S)-2-[(S)-2-(tert-butoxycarbonyl-methyl-amino)-propionylamino]-3-methyl-butyric acid (5.7 g) which was used directly in the next step without further purification, m/z=303 (M+H).

reactant | (S)-2-[(S)-2-(tert-Butoxycarbonyl-methyl-amino)-propionylamino]-3-methyl-butyric acid benzyl ester | 18 mmol, 7 g | C(C1=CC=CC=C1)OC([C@H](C(C)C)NC([C@H](C)N(C)C(=O)OC(C)(C)C)=O)=O | C21H32N2O5
reactant | lithium hydroxide | 40 mmol, 1 M, 40 mL | [OH-].[Li+]
solvent | THF MeOH H2O | 200 mL | C1CCOC1.CO.O
product | (S)-2-[(S)-2-(tert-butoxycarbonyl-methyl-amino)-propionylamino]-3-methyl-butyric acid | 5.7 g | C(C)(C)(C)OC(=O)N([C@H](C(=O)N[C@H](C(=O)O)C(C)C)C)C | C14H26N2O5
